US08242174B2
(R)-2-(4-Fluoro-3,5-dimethyl-phenylamino)-hexanoic acid (Intermediate A2)
(R)-2-Amino-hexanoic acid (0.840 g, 6.4 mmol), 5-bromo-2-fluoro-1,3-dimethyl-benzene (1.292 g, 6.4 mmol), CuI (0.122 g, 0.64 mmol), and K2CO3 (1.326 g, 9.6 mmol) were weighed into a Schlenk flask. To this was added 8 mL of dimethylacetamide and the resulting mixture vacuum-pumped and nitrogen-filled alternatively three times. After heating to 90° C. with stirring for 39 h, the reaction mixture was cooled to room temperature, diluted with 20 mL of ethyl acetate and 10 mL of water, and then acidified with concentrated HCl to pH=3. The layers were separated and the aqueous layer extracted with ethyl acetate (20 mL×5). The organic layers were combined and dried over anhydrous Na2SO4. Removal of the solvent under reduced pressure gave the title product which was used directly in the next step with further purification. LC-MS: tR=8.5 min, m/z 254 (M+H)+.

reactant | (R)-2-Amino-hexanoic acid | 6.4 mmol, 0.840 g | N[C@@H](C(=O)O)CCCC | C6H13NO2
reactant | 5-bromo-2-fluoro-1,3-dimethyl-benzene | 6.4 mmol, 1.292 g | BrC=1C=C(C(=C(C1)C)F)C | C8H8BrF
reactant | K2CO3 | 9.6 mmol, 1.326 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | CuI | 0.64 mmol, 0.122 g | [Cu]I
solvent | dimethylacetamide | 8 mL | CC(=O)N(C)C | C4H9NO
product | (R)-2-(4-Fluoro-3,5-dimethyl-phenylamino)-hexanoic acid | FC1=C(C=C(C=C1C)N[C@@H](C(=O)O)CCCC)C | C14H20FNO2
